data/mechanisms/records/IMS9-EQ9.34b.json
{"mechanism_id": "IMS9-EQ9.34b", "species": [{"species_id": "sec_butyl_acetate_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:3])[O:4][CH:5]([CH3:6])[CH:7]([1H:9])[CH2:8][1H:10]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "distonic_ion_charge_on_carbonyl_o", "mapped_smiles": "[CH3:1][C:2](=[O+:3][1H:9])[O:4][CH:5]([CH3:6])[CH:7][CH2:8][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ion_charge_on_ester_o", "mapped_smiles": "[CH3:1][C:2]([O:3][1H:9])=[O+:4][CH:5]([CH3:6])[CH:7][CH2:8][1H:10]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butene_radical_cation_mz56", "mapped_smiles": "[CH2:8]([1H:10])[CH:7][CH+:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetic_acid_neutral", "mapped_smiles": "[CH3:1][C:2]([O:3][1H:9])=[O:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["sec_butyl_acetate_molecular_ion"]}, {"state_id": "state_rearranged", "species_ids": ["distonic_ion_charge_on_carbonyl_o"]}, {"state_id": "state_resonance", "species_ids": ["distonic_ion_charge_on_ester_o"]}, {"state_id": "state_mz56", "species_ids": ["butene_radical_cation_mz56", "acetic_acid_neutral"]}], "steps": [{"step_id": "step_rH_alkoxy_side", "from_state": "state_precursor", "to_state": "state_rearranged", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_charge_localization", "from_state": "state_rearranged", "to_state": "state_resonance", "step_class": "resonance_delocalization", "semantics": "resonance_interconversion", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_inductive_acid_loss", "from_state": "state_resonance", "to_state": "state_mz56", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "lone_pair", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_alkoxy_side", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters, 'Ethyl and higher esters' (arrow labelled 'rH')"}, "confidence": 0.85, "curator_note": "The arrow labelled 'rH'. Book draws 2 arc(s) on the molecular ion, both single-barbed fishhooks, measured at 11x: one has its tail at the odd-electron dot of the '+.' above the carbonyl oxygen and sweeps left with its head on the explicitly drawn hydrogen; the other has its tail on the C7-H9 bond and sweeps right with its head pointing up at the oxygen. Moves <1,2> are those arcs. Move <3> is NOT drawn -- the second C7-H9 electron staying on C7 as the new radical site -- and the page confirms it by printing a radical dot on exactly that carbon in the product. Six-membered McLafferty transition state H9-C7-C5-O4-C2-O3; no mass changes (the distonic product is still 116.0832). *** THE HYDROGEN COMES FROM THE ALCOHOL SIDE, NOT THE ACID SIDE *** -- the transferring H sits on the sec-butyl group's CH2, so the six-ring runs THROUGH THE ESTER OXYGEN. That is what makes this equation the substrate class of the book's own Gl.-4.45 rule pair, and the opposite of IMS9-EQ9.32 (a methyl ester, where the ring runs through the acyl chain instead). SUBSTRATE: sec-butyl acetate, CH3-C(=O)-O-CH(CH3)-CH2-CH3, drawn skeletally and labelled 'm/z 116'. Named on the same page by Figure 9.12 ('Mass spectrum of sec-butyl acetate') and by the prose that introduces the equation: 'The spectrum of sec-butyl acetate (Figure 9.12) illustrates the additional reactions that are possible with such esters. Rearrangement of one (Equation 4.33) and two (Equation 4.46) hydrogen atoms is highly characteristic (Equation 9.34).' Note what that sentence does: it names the two BOOK-COVER rule families this equation instantiates, one-H and two-H rearrangement. ATOM MAPS: 1 = the acetyl methyl, 2 = the acetyl (carbonyl) carbon, 3 = the carbonyl oxygen, 4 = the ester (saturated) oxygen, 5 = the methine carbon, 6 = its methyl, 7 = the CH2 of the ethyl group, 8 = the terminal methyl of the ethyl group, 9 = THE HYDROGEN THE PAGE DRAWS EXPLICITLY ON C7 (the one that migrates in the rH step), 10 = the hydrogen the page draws explicitly on C8 in the lower structure (the SECOND migrating hydrogen). Both are kept explicit as [1H:n] in every species."}, {"evidence_id": "evidence_step_resonance", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_charge_localization", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters (the double-headed vertical arrow)"}, "confidence": 0.7, "curator_note": "The DOUBLE-HEADED VERTICAL ARROW. The page joins the rH product to a second, redrawn structure below it with a double-headed arrow, and the two differ in EXACTLY one thing, verified atom by atom at 5x: which oxygen carries the charge. Upper form (the rH product): the carbonyl oxygen carries the migrated hydrogen AND the '+', the ester oxygen is a neutral single-bonded O. Lower form: the hydrogen sits on a NEUTRAL hydroxyl, the C=O double bond has moved to the ESTER oxygen and the '+' is printed under it. Same atoms, same connectivity, one pi bond and one charge relocated -- so this is encoded as a RESONANCE/localization interconversion (semantics resonance_interconversion, reversible true, matching the drawn double head) with a single two-electron move carrying the C2=O3 pair into the C2-O4 bond. Book draws 0 arc(s) for it. This is the same charge-delocalization pair that IMS9-EQ9.32a's m/z 74 ion is printed as, and the same convention as IMS9-EQ9.26e: store both drawn forms, do not silently pick one."}, {"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_acid_loss", "support_type": "textbook_proposed", "locator": {"page": 255, "equation": "9.34", "figure": null, "panel": null, "section": "9.4 Esters (arrow labelled 'i', to m/z 56)"}, "confidence": 0.7, "curator_note": "The arrow labelled 'i' leaving the lower (charge-on-ester-oxygen) form. Book draws 0 arc(s) for this channel: the two arcs on that structure both belong to the rH channel below it (their heads land on the forming O-H bond and on the forming C5=C7 bond, not here), so this step's single move is curator-supplied -- charge-site heterolysis of the C5-O4 bond with both electrons going to the oxygen, which neutralises the acetic acid and leaves the charge on the butyl fragment. The arrow-check reports the expected soft lone-pair line on atom 4. PRODUCT FORM (convention C): the page draws m/z 56 with a radical dot on one carbon and a SEPARATE '+' on another, i.e. as the 1,2-DISTONIC butene radical cation, and it is stored exactly that way -- no localization was invented here, unlike IMS9-EQ9.28b where the page drew an intact alkene and the distonic form had to be chosen. Its neutral partner is closed-shell acetic acid (60.0211). MEASUREMENTS (convention F): the page labels m/z 116, (m/z 60), m/z 56 and m/z 61, and every one matches the exact mass computed from the structure encoded here (116.0832, 60.0206, 56.0621, 61.0284 -- RDKit ExactMolWt, which already applies the formal charge). No percentage is printed in the equation, so no relative_intensity is stored; Figure 9.12 on the same page DOES carry abundances (and prints the circled '56' and boxed '61' marks plus 'M+. at m/z 116 has an abundance of 0.1%'), but it is a figure and not this scheme, so it is quoted rather than stored. THE PARENTHESES AROUND '(m/z 60)' ARE THE BOOK'S OWN JUDGEMENT and are recorded as such: 60 is the only one of the four labels printed in parentheses, and Figure 9.12 shows no peak at 60 while it does show 56 and 61 -- so the parentheses mark a channel that is drawn but not observed in this compound's spectrum."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_116", "species_id": "sec_butyl_acetate_molecular_ion", "step_id": null, "observed_mz": 116.0832, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_56", "species_id": "butene_radical_cation_mz56", "step_id": "step_inductive_acid_loss", "observed_mz": 56.0621, "relative_intensity": null, "hydrogen_shift": -1, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
